US06350749B1
A mixture of 5-(5-methyl-2-thienyl)cyclohexane-1,3-dione (4.16 g) and ammonium acetate (4.6 g) in ethanol (50 ml) was refluxed for 15 hours, and the reaction solution was concentrated under reduced pressure. To the residue was added water (60 ml), and the resulting crystals were filtered. The crystals were washed with water and toluene, and dried to give 1-amino-5-(5-methyl-2-thienyl)cyclohexen-3-one (3.37 g) as pale yellow crystals.

reactant | 5-(5-methyl-2-thienyl)cyclohexane-1,3-dione | 4.16 g | CC1=CC=C(S1)C1CC(CC(C1)=O)=O | C11H12O2S
reactant | ammonium acetate | 4.6 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-amino-5-(5-methyl-2-thienyl)cyclohexen-3-one | 3.37 g | NC1=CC(CC(C1)C=1SC(=CC1)C)=O | C11H13NOS
